US07816371B2
b. (R)-3-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoic acid
(R)-Methyl 3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoate (0.6 g, 0.002 mol) was stirred with lithium hydroxide (0.09 g, 0.004 mol) in tert-butyl alcohol (4 mL, 0.04 mol) and water (2 mL, 0.1 mol) at 0° C. for 3 hours. 1 N HCl was added until pH<7 and then the reaction mixture was extracted with CH2Cl2 (40 mL×3). The organic layers were dried over MgSO4, filtered, purified via flash chromatography (12 g silica gel, 0-50% EtOAc/Hexane) to give a yellow oil. MS m/z 291.0 (M+H)+

reactant | (R)-Methyl 3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoate | 0.002 mol, 0.6 g | CC([C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C15H16N2O5
reactant | lithium hydroxide | 0.004 mol, 0.09 g | [OH-].[Li+]
reactant | tert-butyl alcohol | 0.04 mol, 4 mL | C(C)(C)(C)O | C4H10O
reactant | water | 0.1 mol, 2 mL | O | H2O
reactant | HCl | 1 N | Cl | ClH
product | (R)-3-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoic acid | CC([C@H](C(=O)O)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C14H14N2O5
